US05955603
3,4-Dibromo-2,5-bis(2',2',3',3',4',4',4'-heptafluoro-1'-hydroxybutyl)pyrrole (1 mmol, 0.62 g) was dissolved in 25 ml of dry THF and transferred to a cooled (0° C.) suspension of sodium hydride (2.0 mmol, 0.048 g) in 100 mL of THF. When hydrogen evolution ceased (after 2 hours) trimethylsilyl chloride (2 mmol, 0.218 g) was added by syringe. The mixture was stirred at room temperature overnight before the solvent was removed in vacuo. The remaining residue was partitioned between 10% sodium bicarbonate solution and ether and the organic layer was dried over magnesium sulfate, filtered and evaporated to leave a brown oil. The product was purified by chromatography on silica gel using hexane as eluant. The product was the first material off the column (rf =0.5) The fractions containing this spot were evaporated to leave a colorless oil which solidified upon cooling under vacuum to leave 3,4-dibromo-2,5-(bis(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsilyloxybutyl)pyrrole as white needles. (380 mg, 50% yield) 1H NMR (360 MHz, CDCl3) 8.84 (broad s, 1 H); 5.30 (dd, 2 H, J1=19.5, J2=1.0); 0.06 (s, 18 H).

reactant | 3,4-Dibromo-2,5-bis(2',2',3',3',4',4',4'-heptafluoro-1'-hydroxybutyl)pyrrole | 1 mmol, 0.62 g | BrC1=C(NC(=C1Br)C(C(C(C(F)(F)F)(F)F)(F)F)O)C(C(C(C(F)(F)F)(F)F)(F)F)O | C12H5Br2F14NO2
reactant | sodium hydride | 2.0 mmol, 0.048 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | trimethylsilyl chloride | 2 mmol, 0.218 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | bis(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsilyloxybutyl)pyrrole | 50% yield | FC(C(O[Si](C)(C)C)C1=C(NC=C1)C(C(C(C(F)(F)F)(F)F)(F)F)O[Si](C)(C)C)(C(C(F)(F)F)(F)F)F | C18H23F14NO2Si2
